US07030139B2
N-[1-(Cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-1H-benzimidazol-5-yl]-N,3-dimethyl-butanamide
To a solution of 1-(cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-N-methyl-1H-benzimidazol-5-amine (349.5 mg, 1.0 mmol) in MeCN (25 mL) was added DIPEA (258.5 mg, 2.0 mmol), DMAP (10 mg) and isovaleryl chloride (180.9 mg, 1.5 mmol) at 0° C. The reaction mixture was stirred overnight at room temperature which was quenched with H2O (150 mL) and extracted with EtOAc (4×50 mL). The combined organic phases were washed with brine and dried with Na2SO4. Upon filtration and evaporation of the solvent, the residue was purified by MPLC using EtOAc on silica gel to give 431.9 mg (99%) of the desired product as a colorless syrup, which was converted to a TFA salt as a white solid. 1HNMR (400 MHz, CD3OD): δ 0.22 (m, 1H), 0.45 (m, 2H), 0.57 (m, 1H), 0.86 (d, J=5.9 Hz, 6H), 1.02 (m, 1H), 1.38 (t, J=7.0 Hz, 3H), 1.83 (d, J=7.0 Hz, 3H), 2.06 (m, 2H), 2.10 (m, 1H), 3.34 (s, 3H), 4.02 (m, 3H), 4.21 (dd, J=15.0, 6.6 Hz, 1H), 4.65 (q, J=7.0 Hz, 1H), 6.90 (d, J=8.6 Hz, 2H), 7.21 (d, J=8.6 Hz, 2H), 7.28 (d, J=8.4 Hz, 1H), 7.62 (s, 1H), 7.72 (d, J=8.6 Hz, 1H). MS (ESI) (M+H)+=434.42 (M+1)+. Anal: Calcd for C27H35N3O2+0.80TFA+0.90MeOH: C, 64.00; H, 7.17; N, 7.54. Found: C, 63.98; H, 7.02; N, 7.34.

reactant | 1-(cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-N-methyl-1H-benzimidazol-5-amine | 1.0 mmol, 349.5 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)NC)C(C)C2=CC=C(C=C2)OCC | C22H27N3O
reactant | DIPEA | 2.0 mmol, 258.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | isovaleryl chloride | 1.5 mmol, 180.9 mg | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | MeCN | 25 mL | CC#N | C2H3N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[1-(Cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-1H-benzimidazol-5-yl]-N,3-dimethyl-butanamide | 431.9 mg, 99% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)N(C(CC(C)C)=O)C)C(C)C2=CC=C(C=C2)OCC | C27H35N3O2
